US04760086
A solution of 9.35 g (44.5 mmol) 2,2-diphenyl-3-methyloxirane and 9.00 g (138 mmol) NaN3 in 100 ml of 2:1 N,N-dimethylformamide-water was heated at reflux for 72 hours. The solution was concentrated and the residue was partitioned between ether and water. The ether layer was washed with NaHCO3, then water, dried over Na2SO4 and concentrated. HPLC (5% EtOAc-hexane) afforded 7.86 g (70%) of 2-azido-1,1-diphenylpropanol as a clean oil.

reactant | 2,2-diphenyl-3-methyloxirane | 44.5 mmol, 9.35 g | C1(=CC=CC=C1)C1(OC1C)C1=CC=CC=C1 | C15H14O
reactant | NaN3 | 138 mmol, 9.00 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide water | 100 ml | CN(C=O)C.O
product | 2-azido-1,1-diphenylpropanol | 7.86 g, 70% | N(=[N+]=[N-])C(C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C15H15N3O
